US04230705
Preparation of 7-isopropyl-6-phenyl-1,2,4-triazolo[4,3-b]pyridazine
The procedure of Example 4 is repeated substituting equimolecular amounts of 3-benzoyl-3-isopropyl-propionic acid and N-formylhydrazine for the 3-benzoyl-2,3-dimethyl-propionic acid and N-acetylhydrazine employed in that example. There is thus obtained the title compound in equally good yield.

reactant | 3-benzoyl-3-isopropyl-propionic acid | C(C1=CC=CC=C1)(=O)C(CC(=O)O)C(C)C | C13H16O3
reactant | N-formylhydrazine | C(=O)NN | CH4N2O
reactant | 3-benzoyl-2,3-dimethyl-propionic acid | C(C1=CC=CC=C1)(=O)C(C(C(=O)O)C)C | C12H14O3
reactant | N-acetylhydrazine | C(C)(=O)NN | C2H6N2O
product | 7-isopropyl-6-phenyl-1,2,4-triazolo[4,3-b]pyridazine | C(C)(C)C1=CC=2N(N=C1C1=CC=CC=C1)C=NN2 | C14H14N4
